US09422285B2
rac-Benzyl (2-cyanopentan-2-yl)carbamate
20 g (178.3 mmol) of rac-2-amino-2-methylpentanonitrile (described in: Deng, S L. et al., Synthesis 2001, 2445-2449; Freifelder, M. et al., J. Am. Chem. Soc. 1960, 696-698) were initially charged in 2.63 l of THF/water (8/1), and 76.4 g (552.7 mmol) of potassium carbonate were added. Then 27.6 ml (196.1 mmol) of benzyl chloroformate were slowly added dropwise at 0° C. and the mixture was stirred at RT overnight. The reaction mixture was concentrated, and the residue was admixed with water and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated. The residue was purified by means of silica gel chromatography (eluent:cyclohexane/ethyl acetate=4/1). 43.84 g of the target compound were obtained (76% of theory, 76% purity).

reactant | rac-2-amino-2-methylpentanonitrile | 178.3 mmol, 20 g | NC(C#N)(CCC)C | C6H12N2
reactant | potassium carbonate | 552.7 mmol, 76.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 196.1 mmol, 27.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF water | 2.63 l | C1CCOC1.O
product | rac-Benzyl (2-cyanopentan-2-yl)carbamate | 43.84 g | C(#N)C(C)(CCC)NC(OCC1=CC=CC=C1)=O | C14H18N2O2
